US07858800B2
2) Production of isopropyl 4-[1-phenyl-5-methyl-1H-[1,2,3]-triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate
Pyridine (0.5 ml) and 0.01 ml of isopropyl chloroformate were added to 4-(5-methyl-1-phenyl-1H-[1,2,3]-triazol-4-yl]-1,2,3,6-tetrahydropyridine hydrochloride prepared in the above 1) and the mixture was stirred for one night. A saturated aqueous solution of ammonium chloride was added to the reaction solution, the mixture was extracted with ethyl acetate, the organic layer was dried over sodium sulfate and the solvent was evaporated in vacuo. The resulting residue was separated and purified by a thin-layer chromatography (ethyl acetate/hexane=1/2) to give 3.5 mg of the title compound as a white solid.

reactant | isopropyl chloroformate | 0.01 ml | ClC(=O)OC(C)C | C4H7ClO2
reactant | 4-(5-methyl-1-phenyl-1H-[1,2,3]-triazol-4-yl]-1,2,3,6-tetrahydropyridine hydrochloride | Cl.CC1=C(N=NN1C1=CC=CC=C1)C=1CCNCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | isopropyl 4-[1-phenyl-5-methyl-1H-[1,2,3]-triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate | 3.5 mg | C1(=CC=CC=C1)N1N=NC(=C1C)C=1CCN(CC1)C(=O)OC(C)C | C18H22N4O2
